US04469902
(b) 1-Iodo-3-(4-trifluoromethoxyphenyl)-but-1-yn-3-ol
40 ml of concentrated sodium hydroxide solution were added dropwise to a solution of 23 g (0.1 mol) of 3-(4-trifluoromethoxyphenyl)-but-1-yn-3-ol in 250 ml of methanol at 15°-20° C. in the course of 30 minutes, while stirring, and 25.4 g (0.1 mol) of iodine were simultaneously introduced in portions. After three hours, the reaction mixture was stirred into 1,000 ml of water. The initially oil reaction product crystallized on standing. The solid material was taken up in 200 ml of ethyl acetate, the solution was washed twice with 100 ml of water, and the organic phase was dried over anhydrous sodium sulphate and concentrated by evaporation under reduced pressure. The residual oil was dissolved in a small quantity of petroleum ether, the solution was cooled and the precipitated crystals were filtered off under suction. 17.2 g (=48.2% of theory) of colorless crystals of melting point 75°-76° C. were obtained.

reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | 3-(4-trifluoromethoxyphenyl)-but-1-yn-3-ol | 0.1 mol, 23 g | FC(OC1=CC=C(C=C1)C(C#C)(C)O)(F)F | C11H9F3O2
reactant | iodine | 0.1 mol, 25.4 g | II | I2
reactant | water | 1,000 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 1-Iodo-3-(4-trifluoromethoxyphenyl)-but-1-yn-3-ol | IC#CC(C)(O)C1=CC=C(C=C1)OC(F)(F)F | C11H8F3IO2
